US04356324
3.2 grams of α-benzamido-cinnamic acid were dissolved in 40 ml of absolute ethanol and treated with 0.3 ml of the catalyst solution produced in Example 19. The reaction mixture was sucked into a 100 ml autoclave. It was pressurized with 6 bars of hydrogen pressure. After taking up the theoretical amount of hydrogen it was worked up as customary (e.g. see Example 6). There were isolated 3.15 grams of N-benzoyl-(R)-phenylalanine having the rotary value of [α]D27 =+38.6° (c=1/CH3OH), corresponding to an optical yield of 95.8%.

reactant | α-benzamido-cinnamic acid | 3.2 grams | C(C1=CC=CC=C1)(=O)NC(C(=O)O)=CC1=CC=CC=C1 | C16H13NO3
reactant | hydrogen | [H][H] | H2
reactant | CH3OH | CO | CH4O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-benzoyl-(R)-phenylalanine | 3.15 grams, yield of 95.8% | C(C1=CC=CC=C1)(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C16H15NO3
